US05455260
N-trityl-1-[4-(benzoxazol-2-yl)benzyloxy]-3-(4-phenylbutoxy)-2-propanamine (0.3 g; 0.45 mmol) is dissolved in CH2Cl2 (3 ml) and MeOH (3 ml) and acidified to pH3 with acidic methanol. The reaction is stirred 1.5 hours, concentrated and purified by column chromatography with 8% MeOH/CH2Cl2. The product is isolated, dissolved in MeOH and acidified with acidic methanol. The solution is concentrated to yield 1-[4-(benzoxazol-2-yl)benzyloxy]-3-(4-phenylbutoxy)-2-propanamine hydrochloride (m.p. 125°-126° C.).

reactant | N-trityl-1-[4-(benzoxazol-2-yl)benzyloxy]-3-(4-phenylbutoxy)-2-propanamine | 0.45 mmol, 0.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC(COCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2)COCCCCC2=CC=CC=C2 | C46H44N2O3
reactant | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
solvent | MeOH | 3 ml | CO | CH4O
product | 1-[4-(benzoxazol-2-yl)benzyloxy]-3-(4-phenylbutoxy)-2-propanamine hydrochloride | Cl.O1C(=NC2=C1C=CC=C2)C2=CC=C(COCC(COCCCCC1=CC=CC=C1)N)C=C2 | InChI=1S/C27H30N2O3.ClH/c28-24(19-30-17-7-6-10-21-8-2-1-3-9-21)20-31-18-22-13-15-23(16-14-22)27-29-25-11-4-5-12-26(25)32-27;/h1-5,8-9,11-16,24H,6-7,10,17-20,28H2;1H
